US08349869B2
Step A: Synthesis of 6-methylpyridine-2-carboxylic acid (6-acetyl-3-methoxy-2-methylphenyl)-amide (96)
6-Methylpicolinic acid (1.12 g, 8.167 mmol) was dissolved in dry DCM (100 ml) and kept on an ice-bath. Then, 6-acetyl-3-methoxy-2-methylaniline (1.48 g, 8.17 mmol) and pyridine (6.6 mL, 0.082 mol) were added followed by drop wise addition of POCl3 (1.53 mL, 0.016 mol) over 15 minutes. The resulting solution was stirred at −5° C. for 1 h. Then, water (100 mL) was added carefully and after 5 min of stirring, NaOH (40%, 20 mL) was subsequently added drop wise followed by the separation of the organic layer. The water layer was extracted three times with CH2Cl2, and the combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (Heptane/AcOEt, 3:1) to give the title compound (2.1 g, 86%): m/z=299 (M+H)+.

reactant | 6-Methylpicolinic acid | 8.167 mmol, 1.12 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | 6-acetyl-3-methoxy-2-methylaniline | 8.17 mmol, 1.48 g | C(C)(=O)C1=CC=C(C(=C1N)C)OC | C10H13NO2
reactant | pyridine | 0.082 mol, 6.6 mL | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 0.016 mol, 1.53 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 6-methylpyridine-2-carboxylic acid (6-acetyl-3-methoxy-2-methylphenyl)-amide | 2.1 g, 86% | C(C)(=O)C1=CC=C(C(=C1NC(=O)C1=NC(=CC=C1)C)C)OC | C17H18N2O3
